data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5051,5739,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([CH3:18])[C:19](=[O:20])[NH:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[O:16][C:17]2([CH3:18])[C:19](=[O:20])[NH:21][CH3:22],water,298.15,20.750155849092764,-38.90153234523501
1095,1193,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[N+:18]([CH3:19])=[CH:20][C:21](=[O:22])[O:23][CH3:24].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[CH:20]([C:21](=[O:22])[O:23][CH3:24])[N:18]([CH3:19])[C:15]3([C:13]([NH:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,16.481751135975234,-44.29514560655675
4812,5493,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]([CH3:17])=[O:18])=[N+:19]([CH3:20])[C-:21]([CH3:22])[C:23]([CH3:24])=[O:25]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:21]([CH3:22])([C:23]([CH3:24])=[O:25])[N:19]([CH3:20])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16]([CH3:17])=[O:18],water,298.15,39.24915656141791,-11.803592010117416
3976,4549,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9]([C:10](=[O:11])[O:12][CH3:13])=[N+:14]([CH3:15])[CH-:16][C:17](=[O:18])[O:19][CH3:20]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:16]([C:17](=[O:18])[O:19][CH3:20])[N:14]([CH3:15])[C:9]1([C:7]([NH:6][CH3:5])=[O:8])[C:10](=[O:11])[O:12][CH3:13],water,298.15,30.06853515167389,-28.725790652013195
1125,1223,[CH3:13][CH:14]=[N+:15]([CH3:16])[C-:17]([C:18]#[N:19])[C:20](=[O:21])[NH:22][CH3:23].[CH3:1][C:2]1([Cl:3])[C:4]#[C:5][C:6]([F:7])([F:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([Cl:3])[C:4]2=[C:5]([C:6]([F:7])([F:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[CH:14]([CH3:13])[N:15]([CH3:16])[C:17]2([C:18]#[N:19])[C:20](=[O:21])[NH:22][CH3:23],water,298.15,24.615237356856245,-35.75382424786485
1220,1329,[CH3:13][O:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:19]([C:20]([CH3:21])=[O:22])([C:23]([CH3:24])=[O:25])[N:18]=[C:17]3[C:15]([O:14][CH3:13])=[O:16],water,298.15,13.422341467943436,-51.17629825148306
5008,5696,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([CH3:17])[C:18](=[O:19])[NH:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([CH3:17])([C:18](=[O:19])[NH:20][CH3:21])[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,13.035656304723188,-40.41437455944445
1375,1512,[CH3:14][O:15][C:16](=[O:17])[C:18]([C:19]#[N:20])=[N+:21]([CH3:22])[N-:23][C:24]([CH3:25])=[O:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[C:18]([C:16]([O:15][CH3:14])=[O:17])([C:19]#[N:20])[N:21]([CH3:22])[N:23]2[C:24]([CH3:25])=[O:26],water,298.15,15.618050534568017,-20.95996866262631
4444,5076,[CH3:10][O:11][C:12](=[O:13])[CH:14]=[N+:15]([CH3:16])[C-:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:17]([C:18]#[N:19])([C:20](=[O:21])[O:22][CH3:23])[N:15]([CH3:16])[CH:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,30.81802468750656,-7.3203796912854
565,619,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[c:15](=[O:16])[o:17][c:18]([C:19]#[N:20])[n+:21]1[CH3:22].[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[O:17][C:18]1([C:19]#[N:20])[N:21]2[CH3:22],water,298.15,21.39001381594285,-12.109926924229518
2346,2604,[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][CH-:21][C:22](=[O:23])[O:24][CH3:25])[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([Cl:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([Cl:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[CH:21]([C:22](=[O:23])[O:24][CH3:25])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:26]([CH3:27])=[O:28],water,298.15,11.11664265534296,-70.76021801372315
